US07186797B2
Step 8: 3-methoxy-2,4,6-triiodobenzoyl chloride
In a 25 mL round-bottom flask equipped with a condenser, methyl 3-methoxy-2,4,6-triiodobenzoic acid (0.250 g) was suspended in 3 mL anhydrous methylene chloride. Oxalyl chloride (0.58 mL) and one drop of DMF was added. The reaction mixture was stirred for 4 h at RT. The solvent and excess oxalyl chloride were removed by rotary evaporation. The desired acyl chloride was dried under vacuum to give a pale yellow solid which was used in the next step without any further purification. Yield 0.272 g (crude ˜100%)

reactant | methyl 3-methoxy-2,4,6-triiodobenzoic acid | 0.250 g | CC=1C(=C(C(=C(C(=O)O)C1I)I)OC)I | C9H7I3O3
reactant | Oxalyl chloride | 0.58 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 3-methoxy-2,4,6-triiodobenzoyl chloride | COC=1C(=C(C(=O)Cl)C(=CC1I)I)I | C8H4ClI3O2
